* Existing TI SN74HCS74 model; two physical halves, ideal 5V supplies/inputs.
* Checks proposed Q2->D1 session authorization and asynchronous common clear.
.include SN74HCS74.CIR
Vlogic vcc 0 5
Vclear clear 0 PWL(0 0 .5u 0 .501u 5 3u 5 3.001u 0 3.1u 0 3.101u 5 9u 5)
Vsession session 0 PWL(0 0 1u 0 1.001u 5 5u 5 5.001u 0 6u 0 6.001u 5 9u 5)
Vstart start 0 PWL(0 0 .7u 0 .701u 5 .8u 5 .801u 0 2u 0 2.001u 5 4u 5 4.001u 0 4.5u 0 4.501u 5 7u 5 7.001u 0 8u 0 8.001u 5 9u 5)
Xauth vcc session clear vcc auth auth_n vcc 0 SN74HCS74
* TI macro-model D input contains internal 10nF capacitance, not real pin C.
* Ideal unity transport removes that artificial inter-model load. Not hardware.
Edata auth_data 0 auth 0 1
Xrun vcc start clear vcc run run_n vcc 0 SN74HCS74
Cauth auth 0 50p
Cauthn auth_n 0 50p
Crun run 0 50p
Crunn run_n 0 50p
.tran 1n 9u
.control
set wr_singlescale
set wr_vecnames
run
meas tran premature_start FIND v(run) AT=.9u
meas tran authorized FIND v(auth) AT=1.5u
meas tran first_start FIND v(run) AT=2.5u
meas tran fault_auth FIND v(auth) AT=3.08u
meas tran fault_run FIND v(run) AT=3.08u
meas tran held_session_recovery FIND v(auth) AT=3.5u
meas tran stale_start FIND v(run) AT=4.8u
meas tran fresh_session FIND v(auth) AT=6.5u
meas tran held_start_no_enable FIND v(run) AT=6.5u
meas tran fresh_start FIND v(run) AT=8.5u
wrdata rejected-fixed-d1.tsv v(clear) v(session) v(start) v(auth) v(run)
quit
.endc
.end
