* Interface revision11: after permit_open. Authored nominal loaded-gate model.
.include /Users/bennet/Desktop/temper/worktrees/power-entry/zapote/power-entry/passive-reva/protection/interface-defaults-11/after/controller.inc
Vvd vd 0 410
Vvb vb 0 410
Vlogic5 logic5 0 PWL(0 0 20u 5 650u 5)
Vaux15 aux15 0 PWL(0 0 20u 15 650u 15)
Vpermit_src permit_src 0 5
Varm_src arm_src 0 PWL(0 0 190u 0 200u 5 550u 5 551u 0 560u 0 560.1u 5 561u 5 561.1u 0 650u 0)
Vpermit_connect permit_connect 0 PWL(0 5 240u 5 240.001u 0 300u 0 300.001u 5 650u 5)
Varm_connect arm_connect 0 5
Spermit permit_src permit permit_connect 0 CABLE
Sarm arm_src arm arm_connect 0 CABLE
.model CABLE SW(Ron=10 Roff=1e12 Vt=2.5 Vh=0.01)
* 1nF input/cable capacitance is a declared experiment value, not measured assembly.
Cpermit permit 0 1n
Carm arm 0 1n
* Numerical leakage10G; no artificial input1Meg pulldown in the baseline.
Rpermit_numerical permit 0 10G
Rarm_numerical arm 0 10G
Vpwm pwm 0 PWL(0 0 160u 0 170u 5 650u 5)
.tran 20n 650u uic
.control
set wr_singlescale
set wr_vecnames
run
wrdata /Users/bennet/Desktop/temper/worktrees/power-entry/zapote/power-entry/passive-reva/protection/interface-defaults-11/after/permit_open/trace.tsv v(aux15) v(arm) v(permit) v(q) v(enable_good) v(gate) v(disable)
wrdata /Users/bennet/Desktop/temper/worktrees/power-entry/zapote/power-entry/passive-reva/protection/interface-defaults-11/after/permit_open/detail.tsv v(ov_input) v(ov_ref) v(ov_good) v(fast_good) v(window_good) v(health) v(arm_safe) v(permit_safe)
quit
.endc
.end
